US06498251B1
Synthesis Example 2d 2a-(4-Pentenyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one
2a,3,4,5-Tetrahydro-1H-benz[cd]indol-2-one (4.0 g, 23 mmol) was dissolved in anhydrous N,N-dimethylformamide (100 ml), and the solution was mixed with sodium hydride (760 mg, 190 mmol) and stirred at 0° C. for 1 hour. The reaction solution was mixed with 1-bromopentene (3.8 ml, 25 mmol) and stirred at −40° C. for 2 hours. Ethyl acetate, water and hydrochloric acid (1 N) were added to the reaction solution. The reaction product was extracted with ethyl acetate, washed with saturated brine and then dried with anhydrous sodium sulfate, and the material obtained by evaporating the solvent under a reduced pressure was separated and purified by a silica gel column chromatography to obtain 2.7 g (11 mmol, 49% in yield) of the title compound.

reactant | 2a,3,4,5-Tetrahydro-1H-benz[cd]indol-2-one | 23 mmol, 4.0 g | N1C(C2C=3C(=CC=CC13)CCC2)=O | C11H11NO
reactant | sodium hydride | 190 mmol, 760 mg | [H-].[Na+]
reactant | 1-bromopentene | 25 mmol, 3.8 ml | BrC=CCCC | C5H9Br
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2a-(4-Pentenyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | C(CCC=C)C12C(NC=3C=CC=C(C13)CCC2)=O | C16H19NO
